US03989841
7-Methoxy-α-methylfluorene-2-acetic acid methyl ester
A solution of 7-hydroxy-α-methylfluorene-2-acetic acid (10.8 g) in methanol is treated with an excess of ethereal diazomethane to prepare the methyl ester. The ester is dissolved in acetone (550 ml) containing potassium carbonate (110 g) treated with methyl iodide (83 ml) and refluxed overnight. The mixture is filtered and the filtrate evaporated to dryness. The residue is treated with ethyl acetate and filtered to give the crude product. A portion of this material is plate chromatographed on silica gel employing chloroform-hexane (1:1) as the developing solvent. Elution of the least polar band with ethyl acetate, evaporation and crystallization of the residue from acetone-isopropyl ether gave the titled product (mp 98.5°-100.5°). The analytical sample is prepared by recrystallization from acetone-isopropyl ether, mp 101°-103°.

reactant | 7-hydroxy-α-methylfluorene-2-acetic acid | 10.8 g | OC1=CC=C2C=3C=CC(=CC3CC2=C1)C(C(=O)O)C | C16H14O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | potassium carbonate | 110 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 83 ml | CI | CH3I
reactant | methanol | CO | CH4O
solvent | acetone | 550 ml | CC(=O)C | C3H6O
product | 7-Methoxy-α-methylfluorene-2-acetic acid methyl ester | COC(C(C1=CC=2CC3=CC(=CC=C3C2C=C1)OC)C)=O | C18H18O3
